US08012966B2
A stirred solution of 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (67 mg, 0.267 mmol), 5-fluoro-1,3-dihydro-indol-2-one (40 mg, 0.267 mmol) in 0.66 ml of ethanol was added dropwise with anhydrous piperidine (0.1 ml). The mixture was stirred at room temperature overnight. The resulting solid was filtered under reduced pressure, washed with ethanol (1 ml×3) and purified by silica gel column chromatography with triethylamine:methanol:dichloromethane (1:20:500) as eluents to give 5-(2-dimethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (60 mg, 54.8%) as a yellow solid.

reactant | 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.267 mmol, 67 mg | CN(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)C | C13H19N3O2
reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.267 mmol, 40 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 0.66 ml | C(C)O | C2H6O
product | 5-(2-dimethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 60 mg, 54.8% | CN(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)F)=O)=O)C | C21H23FN4O2
